US08026370B2
(2E)-3-(4-fluorophenyl)prop-2-en-1-ol
4-Fluorocinnamic acid (10 g) was dissolved in tetrahydrofuran (120 mL), triethylamine (10.12 mL) and ethyl chloroformate (6.92 mL) were added dropwise under ice-cooling, and the mixture was stirred for 1 hr. An aqueous solution (60 mL) of sodium tetrahydroborate (6.87 g) was added dropwise to the reaction solution, and the mixture was stirred at room temperature overnight. Aqueous hydrochloric acid solution (1 mol/L, 200 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=5:1 to 1:1) to give the title compound (9.36 g) as a white solid.

reactant | 4-Fluorocinnamic acid | 10 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | ethyl chloroformate | 6.92 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium tetrahydroborate | 60 mL, 6.87 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 mol/L, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 10.12 mL | C(C)N(CC)CC | C6H15N
product | (2E)-3-(4-fluorophenyl)prop-2-en-1-ol | 9.36 g | FC1=CC=C(C=C1)/C=C/CO | C9H9FO
